US07989457B2
Step F. 3-{4-[1-(4′-Isopropyl-2-methyl-biphenyl-4-yl)-5-methyl-hexyloxy]-benzoylamino}-propionic acid
3-{4-[1-(4′-Isopropyl-2-methyl-biphenyl-4-yl)-5-methyl-hexyloxy]-benzoylamino}-propionic acid methyl ester (50 mg) was taken into THF (1.0 mL) and treated with NaOH (1.0 mL, 5.0 N), then refluxed under nitrogen. The reaction mixture was neutralized with HCl (1.0 mL, 5.0 N), extracted with ethyl ether, dried over sodium sulfate. Concentration gave the title compound. MS (ES): 516.7 [M+H]+, the structure was also confirmed by proton NMR.

reactant | 3-{4-[1-(4′-Isopropyl-2-methyl-biphenyl-4-yl)-5-methyl-hexyloxy]-benzoylamino}-propionic acid methyl ester | 50 mg | COC(CCNC(C1=CC=C(C=C1)OC(CCCC(C)C)C1=CC(=C(C=C1)C1=CC=C(C=C1)C(C)C)C)=O)=O | C34H43NO4
reactant | NaOH | 5.0 N, 1.0 mL | [OH-].[Na+]
reactant | HCl | 5.0 N, 1.0 mL | Cl | ClH
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 3-{4-[1-(4′-Isopropyl-2-methyl-biphenyl-4-yl)-5-methyl-hexyloxy]-benzoylamino}-propionic acid | C(C)(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)C(CCCC(C)C)OC1=CC=C(C(=O)NCCC(=O)O)C=C1)C | C33H41NO4
